US05072007
30 ml glass autoclave was charged with 2.2 g (20 mmol) of resorcin, 6.2 g (60 mmol) of acetone dimethyl acetal, 6.4 g (200 mmol) of methanol, 0.2 g (2 mmol) of conc. sulfuric acid and 10 ml of toluene, and sealed, and allowed to react at 100° C. for 4 hours. Then, the reaction mixture was cooled to room temperature, neutralized with saturated NaHCO3, washed with water, and toluene was distilled off under reduced pressure. The residue thus obtained was purified by column chromatography on silicagel using hexane-ethyl acetate as an eluent to give 1.26 g (28.3%) of 7-hydroxy-2-methoxy-2,4,4-trimethylchroman as a colorless oil.

reactant | resorcin | 20 mmol, 2.2 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | acetone dimethyl acetal | 60 mmol, 6.2 g | COC(C)(C)OC | C5H12O2
reactant | methanol | 200 mmol, 6.4 g | CO | CH4O
reactant | sulfuric acid | 2 mmol, 0.2 g | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 7-hydroxy-2-methoxy-2,4,4-trimethylchroman | 1.26 g, 28.3% | OC1=CC=C2C(CC(OC2=C1)(C)OC)(C)C | C13H18O3
